US05037991
To 2,2,2-trifluoroethanol (5.0 g, 50.0 mmol) and triethylamine (10.5 ml, 7.6 g, 75.0 mmol) in 25 ml of ethylene chloride at -10° is added methanesulfonyl chloride (4.25 ml, 6.3 g, 55.0 mmol) over 20 min. maintaining the temperature at 0° to -10°. After addition is complete, the mixture is stirred at 0°-5° for 30 min. It is then poured into ice water and additional methylene chloride is added. The layers are separated, and the methylene chloride layer is washed with cold 10% HCl, with cold saturated sodium bicarbonate, with cold water until neutral, and with cold brine. The organic layer is dried over calcium sulfate with swirling and is filtered and the solvent is removed to give 2,2,2-trifluoroethyl methansulfonate.

reactant | 2,2,2-trifluoroethanol | 50.0 mmol, 5.0 g | FC(CO)(F)F | C2H3F3O
reactant | triethylamine | 75.0 mmol, 10.5 ml, 7.6 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 55.0 mmol, 4.25 ml, 6.3 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethylene chloride | 25 ml | C(CCl)Cl | C2H4Cl2
product | 2,2,2-trifluoroethyl methansulfonate | CS(=O)(=O)OCC(F)(F)F | C3H5F3O3S
